US04029780
3-(4-Methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a stirred suspension of 10.7 g of 3-chloro-2H-1,2,4-benzothiadiazine 1,1-dioxide in 100 ml of methanol is added 9.9 g of 1-methylpiperazine and the mixture is heated under reflux for 2 hours. After cooling, the crystalline precipitate is collected by suction filtration and recrystallized from a mixture of dimethylformamide and water to give 10.0 g of the desired product, m.p. 265°-267° C.

reactant | 3-chloro-2H-1,2,4-benzothiadiazine 1,1-dioxide | 10.7 g | ClC=1NS(C2=C(N1)C=CC=C2)(=O)=O | C7H5ClN2O2S
reactant | 1-methylpiperazine | 9.9 g | CN1CCNCC1 | C5H12N2
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4-Methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 10.0 g | CN1CCN(CC1)C=1NS(C2=C(N1)C=CC=C2)(=O)=O | C12H16N4O2S
